US05789595
To 10 ml of toluene was dissolved 1.91 g of N-benzyloxycarbonyl-2,6-dimethyl-4-hydroxypiperidine, and to this solution were added 1.70 g of tert-butyl bromoacetate, 0.08 g of tetrabutylammonium sulfate and 1 ml of water, and then aqueous solution of sodium hydroxide in an ice bath. The solution was stirred overnight at room temperature, washed with water and saturated aqueous solution of sodium chloride, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography. From the fractions eluted with chloroform-methanol (100:1 v/v) was obtained 1.11 g of N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-2,6-dimethylpiperidine, which was an oily product (yield: 41%).

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-benzyloxycarbonyl-2,6-dimethyl-4-hydroxypiperidine | 1.91 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1C)O)C | C15H21NO3
reactant | tert-butyl bromoacetate | 1.70 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium sulfate | 0.08 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1 ml | O | H2O
product | N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-2,6-dimethylpiperidine | 1.11 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1C)OCC(=O)OC(C)(C)C)C | C21H31NO5
